US05561145
4-(p-fluorophenoxy)piperidine:
3-p-methoxyphenyl-5(S)-[(4-p-fluorophenoxypiperidino)methyl]-2-oxazolidinone (hydrochloride), m.p. 246°-247°; [α]D =-28.9° (DMSO);

reactant | 3-p-methoxyphenyl-5(S)-[(4-p-fluorophenoxypiperidino)methyl]-2-oxazolidinone | COC1=CC=C(C=C1)N1C(O[C@H](C1)CN1CCC(CC1)OC1=CC=C(C=C1)F)=O | C22H25FN2O4
solvent | DMSO | CS(=O)C | C2H6OS
product | 4-(p-fluorophenoxy)piperidine | FC1=CC=C(OC2CCNCC2)C=C1 | C11H14FNO
